US09381191B2
0.094 g (0.352 mmol) of 2-(chloromethyl)-3-(phenylethynyl)imidazo[1,2-a]pyridine were dissolved in 2 ml of dimethylformamide with magnetic stirring, 121 mg (0.529 mmol) of N-(3-hydroxyphenyl)methanesulfonamide and 0.172 g (0.529 mmol) of cesium carbonate were added. The mixture was stirred at 60° C. for 3 h before being poured onto 15 ml of a saturated NaCl aqueous solution. The aqueous phase was extracted with 2×20 ml of ethyl acetate. The combined organic phases were dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was purified by preparative HPLC and 0.028 g (yield=18%) of N-(3-((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)-methoxy)phenyl)methane sulfonamide were obtained as a white solid. LC-MS: m/z=418 (MH+); UV purity at 254 nm=95%. 1H NMR (300 MHz, DMSO) δ 9.53 (s, 1H), 8.55 (d, J=6.8 Hz, 1H), 7.76-7.57 (m, 3H), 7.54-7.33 (m, 4H), 7.17-7.02 (m, 2H), 6.89 (dd, J=8.0, 1.1 Hz, 1H), 6.79 (t, J=2.1 Hz, 1H), 6.69-6.54 (m, 1H), 5.07 (s, 2H), 3.14 (s, 3H).

reactant | 2-(chloromethyl)-3-(phenylethynyl)imidazo[1,2-a]pyridine | 0.352 mmol, 0.094 g | ClCC=1N=C2N(C=CC=C2)C1C#CC1=CC=CC=C1 | C16H11ClN2
reactant | N-(3-hydroxyphenyl)methanesulfonamide | 0.529 mmol, 121 mg | OC=1C=C(C=CC1)NS(=O)(=O)C | C7H9NO3S
reactant | cesium carbonate | 0.529 mmol, 0.172 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaCl | 15 ml | [Na+].[Cl-]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(3-((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)-methoxy)phenyl)methane sulfonamide | 0.028 g, yield=18% | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)COC=2C=C(C=CC2)NS(=O)(=O)C | C23H19N3O3S
